US05495020
Employing ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate (7.0 g) and ethanol amine (1.33 ml), the procedure of Reference Example 21 is repeated to give ethyl 2-(2-methyl-3,4,5,6-tetraflurobenzoyl)-3-(2-hydroxyethyl)aminoacrylate. To the product are added pyridine (70 ml) and acetic anhydride (2.57 ml) and the mixture is stirred at room temperature over-night. After concentration, the resultant is diluted with water, subjected to extraction with dichloromethane, and the extract is washed with water and then with a saturated saline solution and dried to give ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-(2-acetyloxyethyl) aminoacrylate, which is then treated with 60% sodium hydride (1.09 g) as in Reference Example 22 to give ethyl 1-(2-acetyloxyethyl)-5-methyl-6,7,8-trifluoro-1,4-dihydro-4 -oxoquinoline-3carboxylate (6.15 g), as colorless prisms (recrystallized from ethyl acetate), m.p. 192°-193° C.

reactant | ethyl 2-(2-methyl-3,4,5,6-tetrafluorobenzoyl)-3-ethoxyacrylate | 7.0 g | CC1=C(C(=O)C(C(=O)OCC)=COCC)C(=C(C(=C1F)F)F)F | C15H14F4O4
reactant | ethanol amine | 1.33 ml | C(O)CN | C2H7NO
product | ethyl 2-(2-methyl-3,4,5,6-tetraflurobenzoyl)-3-(2-hydroxyethyl)aminoacrylate | CC1=C(C(=O)C(C(=O)OCC)=CNCCO)C(=C(C(=C1F)F)F)F | C15H15F4NO4
